US06218156B1
The recombinant E. coli HB101(pNTS1G) obtained in Example 10 was inoculated in 100 ml of a 2×YT medium sterilized in a 500 ml Sakaguchi flask, and cultured with agitation at 37° C. for 13 hours. Glucose, 7.2 g, 3.2 mg of NADP, and then 4 g of methyl 4-chloroacetoacetate were added to 50 ml of the resultant culture. The culture was stirred at 30° C. while being adjusted at pH 6.5 with a 5 M sodium hydroxide solution to allow for reaction for 24 hours. After the reaction, the reaction solution was subjected to extraction using ethyl acetate, the solvent was removed under decompression, and the concentrate was purified by silica gel column chromatography, to obtain 3.85 g of methyl (S)-4-chloro-3-hydroxybutyrate. The optical purity of the methyl (S)-4-chloro-3-hydroxybutyrate was analyzed as follows and found to be 100% e.e. That is, the sample was converted to a carbamate using phenyl isocyanate under the presence of pyridine and measuring the optical purity of the carbamate by an HPLC method. 1H-NMR(CDC13)δ(ppm): 2.65(2H,m), 3.20(1H,br), 3.63(2H,m), 3.73(3H,s), 4.28(1H,m); Column: Chiralcel OJ (0.46×25 cm) manufactured by Daicel Chemical Industries, Co., Ltd.; Column temperature: 25° C.; Eluent: n-hexane/2-propanol of 8/2; Flow rate: 1 ml/min.; Detection: 254 nm; Elution time: 19.2 minutes for (S), 22.6 minutes for (R).

reactant | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NADP | 7.2 g | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | methyl 4-chloroacetoacetate | 4 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
product | methyl (S)-4-chloro-3-hydroxybutyrate | 3.85 g | ClC[C@H](CC(=O)OC)O | C5H9ClO3
